US07888464B2
Step 1b: Preparation of (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid
To a solution of (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid methyl ester (265 mg, 0.822 mmol) in THF (4 mL) and MeOH (4 mL) was added a pre-made solution of lithium hydroxide monohydrate (69 mg, 1.644 mmol) in water (4.00 mL). The cloudy white solution was stirred at rt for 5 hrs. The volatiles were removed, and the reaction mixture was diluted with dilute citric acid solution and extracted with EtOAc (3×10 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, evaporated to obtain white solid (232 mg, 92%) as product. The crude material was used without further purification.

reactant | (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid methyl ester | 0.822 mmol, 265 mg | COC([C@H](C(C)(C)C)NC(=O)NC12CC3CC(CC(C1)C3)C2)=O | C18H30N2O3
reactant | lithium hydroxide monohydrate | 1.644 mmol, 69 mg | O.[OH-].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
solvent | water | 4.00 mL | O | H2O
product | (S)-2-(3-Adamantan-1-yl-ureido)-3,3-dimethyl-butyric acid | 232 mg, 92% | C12(CC3CC(CC(C1)C3)C2)NC(N[C@H](C(=O)O)C(C)(C)C)=O | C17H28N2O3
